simulator lang=spectre
global 0

ahdl_include "./dut/voltage_controlled_gain_amplifier.va"

Vp (vin_p 0) vsource type=pwl wave=[0 0.25 10n 0.25 10.1n 0.55 20n 0.55 20.1n 0.85 30n 0.85 30.1n 0.05 45n 0.05]
Vn (vin_n 0) vsource dc=0.45
Vcp (vctrl_p 0) vsource type=pwl wave=[0 0.95 10n 0.95 10.1n 1.45 20n 1.45 20.1n 2.45 30n 2.45 30.1n 2.45 45n 2.45]
Vcn (vctrl_n 0) vsource dc=0.45
XDUT (vin_p vin_n vctrl_p vctrl_n vout) voltage_controlled_gain_amplifier

simulatorOptions options evas_profile=balanced

tran tran stop=40n maxstep=25p
save vctrl_n vctrl_p vin_n vin_p vout
